US04558132
2-[3-[(3-Amino-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3(2H)dione
2-[3-[(3-Nitro-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3(2H)dione is reduced with hydrogen and palladium-on-carbon catalyst in ethanol-ethyl acetate mixtures to give the title compound.

reactant | 2-[3-[(3-Nitro-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3(2H)dione | [N+](=O)([O-])C=1C(=NC=CC1)N(CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H18N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | 2-[3-[(3-Amino-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3(2H)dione | NC=1C(=NC=CC1)N(CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H20N4O2
